US08686024B2
Synthesis of 1-benzylindolin-5-yl 4-methoxyphenylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (30.0 mg, 0.133 mmol) using the same procedure employed for Example 2 (2), but with 4-methoxyphenylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (13.2 mg, 27%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 0.133 mmol, 30.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 4-methoxyphenylisocyanate | COC1=CC=C(C=C1)N=C=O | C8H7NO2
product | 1-benzylindolin-5-yl 4-methoxyphenylcarbamate | COC1=CC=C(C=C1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C23H22N2O3
